US04064191
PREPARATION OF PARTIALLY METHYLATED GLYCOLURIL
Into a suitable reaction vessel equipped with a stirrer, thermometer, and reflux condenser there was introduced 950 parts (30 moles) of methanol and 40 parts of concentrated hydrochloric acid. To this mixture, 262 parts (1 mole of tetramethylol glycoluril) were added and the reaction mixture was stirred at 25°-30° C. In about 15-20 minutes, all the tetramethylol glycoluril went into solution. After half an hour, the reaction mixture was neutralized with 140 parts of sodium bicarbonate and 20 parts of sodium carbonate at 22°-23° C. The pH after neutralization was about 8. The salt was filtered. The filtrate was concentrated at 60° C. under reduced pressure. The yield of the syrupy product after filtration of the salt was 290 parts, which was diluted to 90% solids with cellosolve. The product characteristics were as follows: Foil Solids: 91.4%; Pan Solids: 82.2%; and Gardner-Holdt Viscosity (25° C.): Z1. I.R. of the product indicated that the methylated product has a significant amount of unreacted methylol groups.

reactant | methanol | 30 moles | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | tetramethylol glycoluril | 1 mole | C(N1C2C(N(C1=O)CO)N(C(=O)N2CO)CO)O | C8H14N4O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | GLYCOLURIL | C12C(NC(=O)N1)NC(=O)N2 | C4H6N4O2
